US07659267B2
N-[4-(4-Oxo-4H-1,3-benzothiazin-2-yl)phenyl]acetamide
2-{[4-(Acetylamino)benzoyl]thio}benzoic acid (1.10 g, 3.5 mmol) was suspended in acetone (10 ml). While stirring under ice cooling, triethylamine (0.50 g, 4.9 mmol) and then ethyl chloroformate (0.53 g, 3.8 mmol) were dropwise added to the suspension. After stirring at the same temperature for an hour, an aqueous solution (10 ml) of sodium azide (0.34 g, 5.2 mmol) was dropwise added to the reaction mixture, followed by further stirring for an hour. The reaction mixture was diluted with water and the dilution was extracted with toluene (100 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and then filtered. The toluene solution was cooled to about −10° C. and tributylphosphine (0.85 g, 4.2 mmol) was dropwise added to the solution. After completion of the dropwise addition, the reaction temperature was reverted to room temperature and the mixture was heated under reflux for 15 minutes. The reaction solution was concentrated under reduced pressure and washed with isopropyl ether. Then, the residue was recrystallized from tetrahydrofuran-ethanol to give the title compound (0.30 g, 29%) as crystals.

reactant | 2-{[4-(Acetylamino)benzoyl]thio}benzoic acid | 3.5 mmol, 1.10 g | C(C)(=O)NC1=CC=C(C(=O)SC2=C(C(=O)O)C=CC=C2)C=C1 | C16H13NO4S
reactant | triethylamine | 4.9 mmol, 0.50 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.8 mmol, 0.53 g | ClC(=O)OCC | C3H5ClO2
reactant | sodium azide | 5.2 mmol, 10 ml, 0.34 g | [N-]=[N+]=[N-].[Na+]
reactant | tributylphosphine | 4.2 mmol, 0.85 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N-[4-(4-Oxo-4H-1,3-benzothiazin-2-yl)phenyl]acetamide | 0.30 g, 29% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=C(C=C2)NC(C)=O | C16H12N2O2S
